US07838528B2
1.1) Hexane-1,3,4,6-tetraol
4-Methylmorpholine 4-oxide (50%) in water) was slowly added to a mixture of hex-3-ene-1,6-diol (7.2 g), acetone (77 ml), water (150 ml), tert-butanol (77 ml), methanesulfonamide (5.9 g) and potassium osmate (228 mg). After 12 hours, the mixture was concentrated and purified by column chromatography on silica gel (mobile phase: ethyl acetate/methanol 3:1). The product with a molecular weight of 150.18 (C6H14O4) was obtained in this way; MS (ESI): 151 (M+H+).

reactant | 4-Methylmorpholine 4-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | hex-3-ene-1,6-diol | 7.2 g | C(CC=CCCO)O | C6H12O2
reactant | acetone | 77 ml | CC(=O)C | C3H6O
reactant | methanesulfonamide | 5.9 g | CS(=O)(=O)N | CH5NO2S
solvent | water | O | H2O
solvent | water | 150 ml | O | H2O
solvent | tert-butanol | 77 ml | C(C)(C)(C)O | C4H10O
product | Hexane-1,3,4,6-tetraol | C(CC(C(CCO)O)O)O | C6H14O4
